### PR TITLE
[Merged by Bors] - feat: `ArchimedeanClass.mk_div`

### PR DESCRIPTION
**Pull request by vihdzp**
...and while we're at it, we remove some `set_option`s

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by wwylele — APPROVED** [review]

File: Mathlib/Algebra/Order/Ring/Archimedean.lean [hunk 1]
```diff
@@ -73,12 +72,10 @@ private theorem mk_mul_le_of_le {x₁ y₁ x₂ y₂ : R} (hx : mk x₁ ≤ mk x
     simp_rw [ArchimedeanOrder.val_of, abs_mul]
   ring
 
-set_option backward.privateInPublic true in
-set_option backward.privateInPublic.warn false in
 /-- Multipilication in `R` transfers to Addition in `ArchimedeanClass R`. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Archimedean.lean]: Probabily a good idea to fix that simultaneousily
```suggestion
/-- Multiplication in `R` transfers to Addition in `ArchimedeanClass R`. -/
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Order/Ring/Archimedean.lean [hunk 2]
```diff
@@ -72,7 +72,7 @@ private theorem mk_mul_le_of_le {x₁ y₁ x₂ y₂ : R} (hx : mk x₁ ≤ mk x
     simp_rw [ArchimedeanOrder.val_of, abs_mul]
   ring
 
-/-- Multipilication in `R` transfers to Addition in `ArchimedeanClass R`. -/
+/-- Multiplication in `R` transfers to Addition in `ArchimedeanClass R`. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Archimedean.lean]:
```suggestion
/-- Multiplication in `R` transfers to addition in `ArchimedeanClass R`. -/
```
arguably even

**Review by Vierkantor — APPROVED** [review]
Thanks! 🎉 

bors r+
